US06399606B1
Methyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate
The title compound was prepared from methyl 3-(3-pyridylcarbonyl)but-3-enoate and N-(2-sulfanylethyl)acetamide as described in Example 13 in quantitative yield, ESMS, (M+1)+325.

reactant | methyl 3-(3-pyridylcarbonyl)but-3-enoate | N1=CC(=CC=C1)C(=O)C(CC(=O)OC)=C | C11H11NO3
reactant | N-(2-sulfanylethyl)acetamide | SCCNC(C)=O | C4H9NOS
product | Methyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate | quantitative yield | C(C)(=O)NCCSCC(CC(=O)OC)C(C=1C=NC=CC1)=O | C15H20N2O4S
